US09302988B2
Step 2: Ethyl 3-(4-chloro-2-fluorophenyl)-4-methyl-1H-pyrrole-2-carboxylate
To a suspension of (E)-4-chloro-2-fluoro-1-(2-nitroprop-1-enyl)benzene (5 g, 23.2 mmol) and ethyl 2-isocyanoacetate (2.65 mL, 24.4 mmol) in a mixture of dry THF (20 mL) and i-PrOH (20 mL) was added 2.6 mmol TBD/g polymer (9.8 g, 25.5 mmol). The suspension was stirred at room temperature for 5 d. The reaction mixture was filtered off and the residue was washed with i-PrOH/THF (1:1, 30 mL). The filtrate was concentrated to give the desired product (5.7 g, 87%) as a yellow oil.

reactant | (E)-4-chloro-2-fluoro-1-(2-nitroprop-1-enyl)benzene | 23.2 mmol, 5 g | ClC1=CC(=C(C=C1)\C=C(/C)\[N+](=O)[O-])F | C9H7ClFNO2
reactant | ethyl 2-isocyanoacetate | 24.4 mmol, 2.65 mL | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | i-PrOH | 20 mL | CC(C)O | C3H8O
product | Ethyl 3-(4-chloro-2-fluorophenyl)-4-methyl-1H-pyrrole-2-carboxylate | 5.7 g, 87% | ClC1=CC(=C(C=C1)C1=C(NC=C1C)C(=O)OCC)F | C14H13ClFNO2
